US05643932
1 ml of 10% potassium hydroxide was added to a solution of 250 mg of 2-(3,4-diethoxyphenyl-4-(4-dimethylaminocarbonylthio-3-methoxycarbonylphenyl)-thiazole in 5 ml of ethanol. The mixture was refluxed for 8 hours with heating. The solvent was removed by distillation. The residue was extracted with 40 ml of hot ethyl acetate. The extract was made acidic with 10% hydrochloric acid, washed with 5 ml of water and 10 ml of a saturated aqueous sodium chloride solution, and dried. The solvent was removed by distillation. The residue was recrystallized from dioxane-ethanol to obtain 130 mg of 2-(3,4-diethoxyphenyl)-4-(4-mercapto-2-carboxyphenyl)-thiazole.

reactant | potassium hydroxide | 1 ml | [OH-].[K+]
reactant | 3,4-diethoxyphenyl-4-(4-dimethylaminocarbonylthio-3-methoxycarbonylphenyl)-thiazole | C(C)OC=1C=C(C=CC1OCC)C=1SC=C(N1)C1=CC(=C(C=C1)SC(=O)N(C)C)C(=O)OC | C24H26N2O5S2
reactant | ethanol | 5 ml | C(C)O | C2H6O
product | 2-(3,4-diethoxyphenyl)-4-(4-mercapto-2-carboxyphenyl)-thiazole | 130 mg | C(C)OC=1C=C(C=CC1OCC)C=1SC=C(N1)C1=C(C=C(C=C1)S)C(=O)O | C20H19NO4S2
